US06548495B2
3-[4-oxo-7-(3-Phenyl-pyrrol-1-yl)-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzonitrile
The title compound was prepared from 3-(3-cyano-phenyl)-N-[2-nitro-5-(3-phenyl-pyrrol-1-yl)-phenyl]-3-oxo-propionamide (Example M12) by reductive cyclization with Fe/HOAc in THF/H2O at 80° C. according to the general procedure J (method d). Obtained as a yellow solid (11 mg).

reactant | 3-(3-cyano-phenyl)-N-[2-nitro-5-(3-phenyl-pyrrol-1-yl)-phenyl]-3-oxo-propionamide | C(#N)C=1C=C(C=CC1)C(CC(=O)NC1=C(C=CC(=C1)N1C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-])=O | C26H18N4O4
solvent | THF H2O | C1CCOC1.O
catalyst | Fe HOAc | [Fe].CC(=O)O
product | 3-[4-oxo-7-(3-Phenyl-pyrrol-1-yl)-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl]-benzonitrile | O=C1NC2=C(N=C(C1)C=1C=C(C#N)C=CC1)C=CC(=C2)N2C=C(C=C2)C2=CC=CC=C2 | C26H18N4O
